US05376681
2-Bromomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran
Triethylamine (5.0 ml, 35.6 mmol) was added to a solution of 5-bromo-2-bromomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran (12.4 g, 35.6 mmol) in ethanol (100 ml). Catalytic hydrogenation decomposition reaction was carried out on 5% palladium carbon under a hydrogen atmosphere. After the completion of the reaction, the catalyst was filtered and the filtrate was concentrated. The residue was dissolved in isopropyl ether, washed with water, dried and the solvent was distilled off. The residue was crystallized from methanol to obtain the desired compound (8.84 g, yield: 92.2%), m.p. 39°-40° C.

reactant | Triethylamine | 35.6 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2-bromomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 35.6 mmol, 12.4 g | BrC=1C(=C(C2=C(CC(O2)(C)CBr)C1C)C)C | C13H16Br2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 2-Bromomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 8.84 g, yield: 92.2% | BrCC1(OC2=C(C1)C(=CC(=C2C)C)C)C | C13H17BrO
